US04851526
1-Ethoxy-3-(4-hexylpiperazin-1-yl)-2-propanol
To 100 mL of ethanol add 87 g (0.1 mol) of epichlorohydrin and zinc chloride (1 mL of a 0.872M solution in ether). Stir the reaction mixture at 100° C. for 2 days at which time remove the heat source and add 17.0 g (0.1 mol) of 1-hexyl-piperazine and 20 mL of 50% aqueous sodium hydroxide. Heat the reaction for 3 hours. Add 100 mL of water and extract twice with 200 mL of ether. Combine the organic layers and dry over Na2SO4. Remove the drying agent by filtration and evaporate the solvent in vacuo to obtain the title compound.

reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | epichlorohydrin | 0.1 mol, 87 g | C(Cl)C1CO1 | C3H5ClO
reactant | 1-hexyl-piperazine | 0.1 mol, 17.0 g | C(CCCCC)N1CCNCC1 | C10H22N2
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | water | 100 mL | O | H2O
product | 1-Ethoxy-3-(4-hexylpiperazin-1-yl)-2-propanol | C(C)OCC(CN1CCN(CC1)CCCCCC)O | C15H32N2O2
